Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
BRBPR, LLQ pain
 
Major Surgical or Invasive Procedure:
.
 
History of Present Illness:
This is a ___ yo F with h/o PAF on coumadin who presents with 
BRBPR and LLQ pain X 3 days. Her symptoms began ___ night 
when she began to experience BRBPR with minimal amounts of loose 
stools. This was associated with crampy LLQ > RLQ pain. Denies 
n/v, melena, fevers. + chills. These symptoms continued until 
___ when the blood became less brisk with an increase in the 
amount of loose stools. She attempted to keep well hydrated over 
the weekend but began to feel increasingly lightheaded to the 
point that she felt she may pass out if she stood up too 
quickly. The pt has had BRBPR in the past ___ hemorrhoids but 
reports those past episodes were not nearly as significant and 
not accompanied by abdominal pain. She was recently started on a 
baby ASA 1 week ago and also reports that her lasix dose was 
increased 2 weeks ago. No recent antibiotics. Denies recent 
change in diet, including increased ingestion of leafy, green 
vegetables. She went to see her PCP today who noted her SBP to 
be in the ___ (usual baseline 140s) and referred her to the ED 
for further evaluation.  
.  
In the ED, pt AF, BP 97/49, HR 61. Rectal exam significant only 
for small amounts of dried blood in the vault, NGL was negative. 
Labs were significant for WBC 15.2, Hct 43.5, BUN 31, Cr 2.0, 
lactate 1.4, and INR 17.1. A CT abd/pelvis was significant for 
pancolitis. She was given 2 units FFP, 10 mg IV vitamin K, 
protonix 40 IV X 1, levaquin 750 mg IV X 1, flagyl 500 mg IV X 
1, and a total of 3 L IVFs. Repeat INR 2.6. She remained 
hemodynamically stable and did not have any episodes of BRBPR in 
the ED in spite of having several BMs. She was then admitted to 
the ___ for further management.  
.  
ROS otherwise only positive for stable DOE. She is unable to 
walk up a flight of stairs without becoming signicantly winded. 
ROS otherwise negative.  
.  

 
Past Medical History:
PAF on coumadin  
HTN (baseline BP 140/70s)  
h/o CHF (EF 20% in ___, TTE in ___ with nl EF)  
mod MR and TR  
s/p PPM ___ syncope in ___, s/p dual chamber PPM replacement in 
___  
Melanoma s/p resection  
Asthma  
Depression  
Breast cancer ___ years ago, s/p R lumpectomy and XRT, s/p L 
lumpectomy in early ___ ___ yrs ago that was negative  
Pancreatic lesion, reportedly extensively worked up ___ yrs ago 
that was negative, stable lesion on serial CTs  
Post granulomatous infection of liver and spleen  
Seasonal allergies  
Gout  

 
Social History:
___
Family History:
father with colon CA 
 
Physical Exam:
VS: Temp: 98.9 BP: 145/45 HR: 64 RR: 22 O2sat 100% on 2L NC  
GEN: pleasant, comfortable, NAD  
HEENT: PERRL, EOMI, anicteric, dry MM, op without lesions  
NECK: supple, no LAD, jvd flat  
RESP: + bibasilar rales that clear with deeper breaths  
CV: RR, II/VI holosystolic murmur radiating to apex  
ABD: Soft, diffusely TTP especially over LLQ, + guarding, + 
rebound, normoactive BS, no HSM  
EXT: no c/c/e, warm, good pulses  
SKIN: no rashes/no jaundice  
NEURO: AAOx3  
RECTAL: guaiac positive, dried blood in vault  

 
Pertinent Results:
___ 04:35PM   GLUCOSE-95 UREA N-31* CREAT-2.0* SODIUM-136 
POTASSIUM-3.9 CHLORIDE-100 TOTAL CO2-26 ANION GAP-14
___ 04:35PM   CALCIUM-8.4 PHOSPHATE-3.8 MAGNESIUM-2.4
___ 04:35PM   ALT(SGPT)-21 AST(SGOT)-35 LD(LDH)-370* 
AMYLASE-71 TOT BILI-0.4 LIPASE-88*
.
___ 11:57PM   LACTATE-1.0
___ 07:00PM   LACTATE-1.4
.

 
Brief Hospital Course:
# Bright red blood per rectum- Evidence of pancolitis on initial 
CT, stool studies significant for c diff colitis.  Bleeding 
stopped once INR was corrected.  GI was consulted and suggest a 
colonoscopy in about 4 weeks, after colitis has had time to 
improve.  Follow up scheduled with GI, ___ to check INR and hct 
3 times per week.  
.
# C Difficile colitis: Diarrhea improved on Flagyl, planned 14 
day course.
.
# Supratherapeutic INR: Coumadin restarted prior to discharge 
without GI bleed.  She was discharged on approx ___ the dose of 
coumadin she was on prior to admission.  ___ to check INR 3 
times per week.  Nutritionist saw pt to eduated re: food 
restrictions while on coumadin.
.
# Falls/imbalance- Patient had a fall while in the ___ ICU 
overnight, and hit her head (likely on an open cabinet door 
adjacent to the toilet), requiring 3 stitches for a laceration. 
A CT head was obtained immediately after and showed no acute 
hemorrhage. There had been no significant events on telemetry 
and no indication of pacemaker malfunction. A CT spine was 
obtained and the read showed no fracture, and her C-spine was 
cleared. Approximately 12 hours later, a nurse observed the 
patient to be extremely unsteady on her feet, somewhat 
tremulous, and not as easily conversant as prior. A second CT 
head was obtained and was negative for edema or new subdural. 
The patient was observed overnight on fall precautions and there 
were no further events, and her mental status was at baseline. 
The attending radiologist later re-read the C-spine study and 
notified the team that there was possible cervical cord 
compression.
.
# Cervical Cord compression w/o radiculopathy: Possible C6-C7 
cord compression based on CT cervical spine. No associated 
neurologic deficits. Neurosurgery was consulted and recommended 
myelogram for further assessment. The family and patient chose 
not to have the CT myelogram done.  They stated that they would 
never opt for surgery, and if that was the only recommendation 
to come out of CT myelogram, they felt there was no use for the 
study.  Neurosurgery team confirmed this was in fact the case.  
Family is aware that if symptoms develop, falls increase from 
weakness, or any other concerns for symptomatic cord 
compression, and they should see PCP immediately to discuss CT 
myelogram and possible decompressive surgery.
.
#CKD, stage III: Pt in ARF at admission, resolved to baseline 
creatinine of 1.3
.
#Chronic systolic heart failure: Past EF 20% per family, however 
recent echo in ___ with EF > 60%.  Pt was continued on 
isosorbide, metoprolol, lasix.  Lisinopril was held as pt 
noticed that she had a chronic cough that had resolved during 
the hospitalization while off of Lisinopril.  Plan is to hold 
off on restarting, note any cough symptoms at home, and follow 
up with PCP ___ 2 weeks to discuss whether Lisinopril could in 
fact be cause of cough.  Also will need to discuss whether 
alternative ___ needed.  Digoxin was held at request of family.  
No recent CHF exacerbations, most recent EF >60%, and pacer 
interrogations show atrial fibrillation despite therapuetic 
digoxin levels.  They asked to stop this because they were 
concerned that it may be the cause of the patients chronic 
diarrhea.  They are aware that they will need to follow up with 
cardiologist Dr. ___ need to restart digoxin.
 
Medications on Admission:
ASA 81 mg daily  
Coumadin 4 mg daily  
Zestril 10 mg daily  
Lopressor 25 mg bid  
Digoxin 125 mcg daily  
Isosorbide dinitrate 20 mg bid  
Lasix 40 mg qod, 20 mg qod  
Singulair 10 mg daily  
Prednisone 10 mg prn (for gout flares)  
Allegra 60 mg bid  
Advair 250/50 1 puff bid  
Allopurinol ___ mg daily  
Celexa 20 mg daily  
Omeprazole 20 mg daily  
Caltrate daily  
.  

 
Discharge Medications:
1. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) for 9 days.
Disp:*27 Tablet(s)* Refills:*0*
2. Allopurinol ___ mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  

3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Warfarin 2 mg Tablet Sig: One (1) Tablet PO DAILY16 (Once 
Daily at 16).
Disp:*30 Tablet(s)* Refills:*0*
5. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
6. Isosorbide Dinitrate 20 mg Tablet Sig: One (1) Tablet PO 
twice a day.  
7. Lasix 40 mg Tablet Sig: One (1) Tablet PO every other day.  
8. Lasix 20 mg Tablet Sig: One (1) Tablet PO every other day.  
9. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Fexofenadine 60 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
11. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
12. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
13. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
14. DISCONTINUED MEDICATIONS
STOP TAKING DIGOXIN AND LISINOPRIL UNTIL YOU SEE ___. ___.
15. INR checks
Please check INR and Hct 3 times per week for the next 2 weeks.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
c difficile colitis
acute renal failure (now resolved)

 
Discharge Condition:
stable

 
Discharge Instructions:
Please call your PCP with shortness of breath, weight gain of 
more than 2 pounds in one day, dizziness, blood in stool, or 
other concerning symptoms.
 
Followup Instructions:
___